US08222248B2
A solution of 4-amino-3-nitrobenzoic acid (0.5 g), 3-chloroaniline (0.29 mL), BOP (1.46 g) and DIEA (0.72 mL) in DMF (5 mL) was stirred at room temperature for 20 h. Then saturated NaHCO3 aqueous solution was added. The aqueous layer was extracted with CH2Cl2, and the organic extracts were dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography (SiO2, EtOAc:Hexane=12:88 to 100:0) to give 4-amino-N-(3-chloro-phenyl)-3-nitrobenzamide as a yellow solid: MS (m/z) 292 (M+1); 1H NMR (DMSO-d6, 400 MHz) δ 10.32 (s, 1H), 8.73 (s, 1H), 7.97 (d, 1H), 7.94 (s, 1H), 7.87 (s, 2H), 7.69 (d, 1H), 7.37 (t, 1H), 7.16 (d, 1H), 7.10 (d, 1H).

reactant | 4-amino-3-nitrobenzoic acid | 0.5 g | NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | 3-chloroaniline | 0.29 mL | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | BOP | 1.46 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 0.72 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-amino-N-(3-chloro-phenyl)-3-nitrobenzamide | NC1=C(C=C(C(=O)NC2=CC(=CC=C2)Cl)C=C1)[N+](=O)[O-] | C13H10ClN3O3
